US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone
A mixture of 51 g of 8-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-1,4-dioxa-8-azaspiro[4.5]decane hydrochloride, 100 ml of water, 100 ml of ethanol and 150 ml of 3N hydrochloric acid was heated at 75°-80° C. for 3 hrs and at ambient temperature overnight, with stirring. The mixture was cooled, basified with 3N sodium hydroxide solution and extracted with ethyl acetate-ether. The organic extracts were washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated to give 37 g (96%) of product as an oil.

reactant | 8-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-1,4-dioxa-8-azaspiro[4.5]decane hydrochloride | 51 g | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC3(OCCO3)CC2)C=C1
reactant | water | 100 ml | O | H2O
reactant | hydrochloric acid | 3N, 150 ml | Cl | ClH
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone | 37 g, 96% | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)=O)C=C1 | C15H17FN2O2
